US06352993B1
6-methoxymethyl-5-methyl-2-phenylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After aniline (2.41 ml, 26.4 mmol) and triethylamine(3.68 ml, 26.4 mmol) were added to a solution of 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(7 g, 22 mmol) in dimethylformamide (20 ml), 4.1 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | aniline | 26.4 mmol, 2.41 ml | NC1=CC=CC=C1 | C6H7N
reactant | triethylamine | 26.4 mmol, 3.68 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 22 mmol, 7 g | COCC1=C(C(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C)C | C17H20ClN3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-methoxymethyl-5-methyl-2-phenylamino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 4.1 g, Yield: 45% | Cl.COCC1=C(C(=NC(=N1)NC1=CC=CC=C1)N1C(C2=CC=CC=C2CC1)C)C | InChI=1S/C23H26N4O.ClH/c1-16-21(15-28-3)25-23(24-19-10-5-4-6-11-19)26-22(16)27-14-13-18-9-7-8-12-20(18)17(27)2;/h4-12,17H,13-15H2,1-3H3,(H,24,25,26);1H
